US03983164
Potassium 4-carboxyphenoxy phenyl methane
A mixture of 4-carboxyphenoxy phenyl methane (5.7g.; 0.025 mole) and potassium hydroxide (1.4g.; 0.025 mole) in water (40ml) were heated at reflux for 1 hr., on cooling the potassium salt was filtered off and dried, m.p. >340°.

reactant | 4-carboxyphenoxy phenyl methane | 0.025 mole, 5.7g | C(=O)(O)C1=CC=C(OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | potassium hydroxide | 0.025 mole, 1.4g | [OH-].[K+]
reactant | potassium | [K] | K
solvent | water | 40ml | O | H2O
product | Potassium 4-carboxyphenoxy phenyl methane | C(=O)(O)C1=CC=C(OCC2=CC=CC=C2)C=C1.[K] | InChI=1S/C14H12O3.K/c15-14(16)12-6-8-13(9-7-12)17-10-11-4-2-1-3-5-11;/h1-9H,10H2,(H,15,16);
